US04499299
b. Ethyl 4-(4-acetyl-3-hydroxy-2-propylphenoxy)methylphenoxyacetate
A solution of 1 g (5.15 mmoles) of 2,4-dihydroxy-3-propylacetophenone and 2.0 g (5.15 mmoles) of ethyl 4-bromomethylphenoxyacetate in 50 ml of dry acetone was stirred and refluxed with 800 mg of K2CO3 for 48 hours. The reaction mixture was diluted with H2O, rendered acidic with 6N HCl and extracted into CH2Cl2. Evaporation of the CH2Cl2 gave an oil that was chromatographed on silica gel by gradient elution with 50% CH2Cl2 /hexane to 75% CH2Cl2 /hexane to provide the title compound as a white solid.

reactant | 2,4-dihydroxy-3-propylacetophenone | 5.15 mmoles, 1 g | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
reactant | ethyl 4-bromomethylphenoxyacetate | 5.15 mmoles, 2.0 g | BrCC1=CC=C(OCC(=O)OCC)C=C1 | C11H13BrO3
reactant | K2CO3 | 800 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 6N | Cl | ClH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | H2O | O | H2O
product | Ethyl 4-(4-acetyl-3-hydroxy-2-propylphenoxy)methylphenoxyacetate | C(C)(=O)C1=C(C(=C(OCC2=CC=C(OCC(=O)OCC)C=C2)C=C1)CCC)O | C22H26O6
